US08420631B2
N-prop-2-ynyl-cyclopentylcarboxamide
Dissolve propargylamine (1.5 g, 28.07 mmol) in DCM (50 mL), add triethylamine (7.83 mL, 56.15 mmol) and cool the mixture to 0° C. Add cyclopentanecarbonyl chloride (2.5 g, 18.72 mmol) and warm to room temperature. Stir the reaction mixture for 18 h. Wash the mixture with water (3×50 mL) and hydrochloric acid (2N, 50 mL) and dry the organic phase over MgSO4. Remove the solvent in vacuo and triturate the solid with iso-hexane to give the title compound as a fine white powder (1.51 g, 53%).

reactant | propargylamine | 28.07 mmol, 1.5 g | C(C#C)N | C3H5N
reactant | triethylamine | 56.15 mmol, 7.83 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopentanecarbonyl chloride | 18.72 mmol, 2.5 g | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-prop-2-ynyl-cyclopentylcarboxamide | 1.51 g, 53% | C(C#C)NC(=O)C1CCCC1 | C9H13NO
